US05308853
Diethyl 1-Butyl-2,5-Dioxo-4-Imidazolylphosphonate
To a solution of diethyl 2,5-dioxo-4-imidazolylphosphonate (6.00 g, 0.025 moles) in DMF (15 mL), under N2, is added K2CO3 (17.5 g, 0.127 moles) and 1-iodobutane (2.9 mL, 0.025 moles). This mixture is stirred at room temperature for 16 hours and then the mixture is filtered and the solid washed with ethyl acetate. The filtrate is concentrated in vacuo, to afford a yellow oil which is redissolved in ethyl acetate and washed with water and brine and then dried over MgSO4. Evaporation of solvents under high vacuum affords the required product as a viscous yellow oil which solidifies on standing.

reactant | diethyl 2,5-dioxo-4-imidazolylphosphonate | 0.025 moles, 6.00 g | O=C1NC(C(=N1)P(OCC)(OCC)=O)=O | C7H11N2O5P
reactant | K2CO3 | 0.127 moles, 17.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodobutane | 0.025 moles, 2.9 mL | ICCCC | C4H9I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl 1-Butyl-2,5-Dioxo-4-Imidazolylphosphonate | C(CCC)N1C(N=C(C1=O)P(OCC)(OCC)=O)=O | C11H19N2O5P
